US06933311B2
N-(4-bromobenzyl)-N′-1H-indol-4-ylurea
4-aminoindole (0.13 g, 1 mmol) in THF (3 mL) was treated with 1-bromo-4-(isocyanatomethyl)benzene (0.23 g, 1.1 mmol) for 3 hours at ambient temperature. Hexane was added to the reaction mixture to precipitate 0.26 g of the title compound as a tan solid. mp 198° C.; 1H NMR (300 MHz, DMSO-d6) δ 4.30 (d, 2H), 6.51 (t, 1H), 6.89 (t, 1H), 6.95 (d, 2H), 7.29 (t, 1H), 7.31 (d, 2H), 7.55 (d, 2H), 7.62 (dd, 1H), 8.3 (s, 1H), 11.04 (s, 1H); MS (DCI+) m/z 346 (M+H); Anal. Calcd. For C16H14N3BrO: C, 55.83; H, 4.10; N, 12.21. Found: C, 55.71, H, 4.12; N, 12.01.

reactant | 4-aminoindole | 1 mmol, 0.13 g | NC1=C2C=CNC2=CC=C1 | C8H8N2
reactant | 1-bromo-4-(isocyanatomethyl)benzene | 1.1 mmol, 0.23 g | BrC1=CC=C(C=C1)CN=C=O | C8H6BrNO
reactant | Hexane | CCCCCC | C6H14
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-(4-bromobenzyl)-N′-1H-indol-4-ylurea | BrC1=CC=C(CNC(=O)NC2=C3C=CNC3=CC=C2)C=C1 | C16H14BrN3O
